.START
..device	value	footprint	quantity	refdes
CAPACITOR	0.1uF	0603	2	C13 C14
CAPACITOR	10nF	0603	1	C12
INPUT	unknown	unknown	1	U?
LIDAR	unknown	SIP6	1	U5
MPU-9250	unknown	QFN24_3	1	U6
RESISTOR	100k	0603	1	R11
.END
